US09212190B2
To a solution of tert-butyl N-methyl-N-(4-[[(3S)-3-[2-(1,3-oxazol-2-yl)ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate (110 mg, 0.22 mmol, 1.00 equiv) in dichloromethane (5 mL) was added hydrogen chloride (12 M, 1 mL) at 0° C. and the resulting mixture was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure and the residue was neutralized with sodium hydroxide and extracted with 2×30 mL of dichloromethane. The combine organic layers were concentrated in vacuo to give N-methyl-4-[[(3S)-3-[2-(1,3-oxazol-2-yl)ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexan-1-amine (80 mg, crude) as a yellow oil.

reactant | tert-butyl N-methyl-N-(4-[[(3S)-3-[2-(1,3-oxazol-2-yl)ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate | 0.22 mmol, 110 mg, 1.00 equiv | CN(C(OC(C)(C)C)=O)C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCC=1OC=CN1 | C26H34N4O4S
reactant | hydrogen chloride | 12 M, 1 mL | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-methyl-4-[[(3S)-3-[2-(1,3-oxazol-2-yl)ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexan-1-amine | 80 mg | CNC1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCC=1OC=CN1 | C21H26N4O2S
